data/mechanism_extracts/NatCommun/10.1038_s41467-023-43791-1.json
{"doi": "10.1038_s41467-023-43791-1", "journal": "NatCommun", "is_review": false, "rxn_class_summary": "Paired electrophotocatalytic C(sp3)-H arylation (two-component) or C(sp3)-H alkylation (three-component, with alkene linker) of alkanes with aryl bromides, using Fe/Ni dual catalysis under blue/purple light", "mechanism_family": ["paired_electrolysis", "photoredox_combined", "radical_anodic", "radical_cathodic", "electrocatalysis_inner_sphere"], "electrochemical_role": "Anodic LMCT-driven oxidation of [FeIIICl4]- (photoexcited) regenerates FeIII from FeII while releasing Cl• that performs HAT on the alkane to give an alkyl radical; cathodic reduction generates and turns over the Ni(I)/Ni(II)/Ni(III) catalytic cycle that couples the alkyl radical with ArBr", "key_intermediates": [{"name": "[FeIIICl4]- (ground state, species A)", "smiles": "[Cl-].[Cl-].[Cl-].[Cl-].[Fe+3]", "role": "resting_state"}, {"name": "photoexcited *[FeIIICl4]- (species B)", "smiles": null, "role": "transient"}, {"name": "[FeIICl3]- after LMCT (species C)", "smiles": null, "role": "transient"}, {"name": "chlorine radical Cl• (species D)", "smiles": "[Cl]", "role": "reactive"}, {"name": "alkyl radical R• (species E) from HAT on alkane", "smiles": null, "role": "reactive"}, {"name": "alkyl radical adduct onto EWG-alkene (Giese adduct, species F)", "smiles": null, "role": "reactive"}, {"name": "Ni(I) species (LnNiI, species I)", "smiles": null, "role": "reactive"}, {"name": "LnNiII-Ar (aryl-NiII, species G/K, complex 73)", "smiles": null, "role": "resting_state"}, {"name": "LnNiIII(Ar)(alkyl) (species H/L/M)", "smiles": null, "role": "transient"}, {"name": "LnNiIII-Ar after oxidative addition (species J)", "smiles": null, "role": "transient"}], "electron_flow": "Under irradiation, anodic oxidation regenerates FeIII from FeII while a photoexcited [FeIIICl4]- undergoes LMCT to release Cl•, which abstracts H from the alkane to form an alkyl radical (optionally adding to an electron-poor alkene first). The cathode reduces NiII to NiI, which oxidatively adds ArBr to give NiIII-Ar; the alkyl radical is captured by aryl-NiII (or NiIII) to give a NiIII(Ar)(alkyl) intermediate that reductively eliminates the C(sp3)-C(sp2) product.", "rate_determining_step": "Matching of the anodic rate of alkyl radical generation (LMCT/HAT) with cathodic aryl-NiII speciation; selectivity is controlled by rate-matching rather than by a single elementary step", "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction completely inhibited; cyclohexyl-TEMPO adduct (72) detected by 1H NMR, supporting alkyl radical formation via anodic HAT"}, {"name": "Cycloheptyl chloride (alkyl chloride competition)", "smiles": "ClC1CCCCCC1", "purpose": "intermediate_trap", "observation": "Reductive coupling product from alkyl chloride + ArBr (1') not detected; only cyclohexyl arylation product 1 formed (77%), excluding alkyl chloride as a key intermediate"}, {"name": "Ni(COD)2 as Ni(0) source", "smiles": null, "purpose": "intermediate_trap", "observation": "Only 9% yield, suggesting Ni(0) is not the operative species in the catalytic cycle"}, {"name": "Stoichiometric aryl-NiII complex 73 (with 6,6'-Me2-bpy)", "smiles": null, "purpose": "stoichiometric_intermediate", "observation": "With cyclohexane + FeCl3·6H2O under light gave product 1 in 37%; Ni(I) detected by HRMS, confirming aryl-NiII as catalytic species and Ni(I) intermediate"}, {"name": "Aryl-NiII complex 73 as catalyst (10 mol%)", "smiles": null, "purpose": "stoichiometric_intermediate", "observation": "Delivered product 23 in 46% yield, supporting catalytic competence of Ar-NiII"}, {"name": "Light on/off and intensity variation", "smiles": null, "purpose": "redox_probe", "observation": "No product without light; higher light intensity gives higher rate and selectivity (Fig. 7), consistent with photoinduced LMCT controlling radical generation rate"}, {"name": "Cyclic voltammetry of NiBr2·3H2O + bpy", "smiles": null, "purpose": "redox_probe", "observation": "Shows NiII/NiI reduction wave around -1.1 V vs Ag/AgCl, matching the observed cathode potential during electrolysis"}, {"name": "Chronopotentiometry during electrolysis", "smiles": null, "purpose": "redox_probe", "observation": "Anode held ~0.23 V and cathode ~-1.1 V vs Ag/AgCl, consistent with FeII/FeIII anodic and NiII/NiI cathodic cycles"}], "evidence_types_used": ["intermediate_trap_TEMPO", "stoichiometric_intermediate", "cyclic_voltammetry", "on/off_light_or_current", "isolation_of_intermediate", "kinetic_order"], "evidence_strength": "strong", "notes": "The authors emphasize 'rate-matching modulation': current (4 mA for arylation vs 25 mA for three-component alkylation) and light intensity independently tune anodic radical generation vs cathodic Ni speciation to switch selectivity between two- and three-component products. A direct anodic oxidation of Cl-/Br- to halogen radical (without LMCT photoexcitation) is explicitly excluded because the anode potential (~0.23 V) is too low. Alkyl chloride pathway and Ni(0) pathway are excluded by control experiments. The alkyl radical is proposed to be captured either by aryl-NiII (giving NiIII(Ar)(alkyl)) or by NiI followed by oxidative addition of ArBr; the favored radical-chain coupling proceeds via Ar-NiII."}
